US08541448B2
Into a 100-mL round-bottom flask, was placed a solution of isophthalic acid (10 g, 60.24 mmol, 1.00 equiv) in 98% H2SO4 (60 mL). This was followed by the addition of N-bromosuccinimide (12.80 g, 72.32 mmol, 1.20 equiv), in portions at 60° C. in 10 min. The resulting solution was stirred overnight at 60° C. in an oil bath. The reaction was cooled to room temperature and then quenched by the addition of water/ice. The solids were collected by filtration, and washed with 2×60 mL of hexane. The solid was dried in an oven under reduced pressure. The crude product was purified by re-crystallization from ethyl acetate to give 3 g (20%) of 5-bromoisophthalic acid as a white solid.

reactant | isophthalic acid | 60.24 mmol, 10 g, 1.00 equiv | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | N-bromosuccinimide | 72.32 mmol, 12.80 g, 1.20 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | 5-bromoisophthalic acid | 3 g, 20% | BrC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5BrO4
